* source ECE351HW1
V_V12         N09241 0  AC 1 0
V_V10         N09151 0  DC 18
C_C3         N09285 0 1000u 
R_R15         N09195 N09151 160k 
V_V11         0 N09289  DC 18
Q_Q1         N09195 N09241 N09285 Qn 
I_I2         N09285 N09289 DC 50uA  
